US07459451B2
To a solution of methyl 3-cyclopropyl-3-oxopropanoate (3.00 g) and cyclohexanecarboxaldehyde (2.84 g) in MeOH (30 ml) was added piperidine (0.209 ml) at room temperature. The mixture was stirred for 48 h. The solvent was evaporated off, and the residue was chromatographed on a silicagel column chromatography (EtOAc-hexaens, a linear gradient of EtOAc from 0 to 15% over 60 min) afforded methyl 3-cyclohexyl-2-(cyclopropylcarbonyl)acrylate as a colorless oil (3.72 g).

reactant | methyl 3-cyclopropyl-3-oxopropanoate | 3.00 g | C1(CC1)C(CC(=O)OC)=O | C7H10O3
reactant | cyclohexanecarboxaldehyde | 2.84 g | C1(CCCCC1)C=O | C7H12O
reactant | piperidine | 0.209 ml | N1CCCCC1 | C5H11N
solvent | MeOH | 30 ml | CO | CH4O
product | methyl 3-cyclohexyl-2-(cyclopropylcarbonyl)acrylate | 3.72 g | C1(CCCCC1)C=C(C(=O)OC)C(=O)C1CC1 | C14H20O3
